US07138425B2
a) 2-(3-Aminophenyl)-5-phenylbenzoxazole
Prepared by the method of Example 1a), from 2-amino-4-phenylphenol (674 mg, 3.6 mmol) and 3-aminobenzoic acid (500 mg, 3.6 mmol) the subtitle compound was obtained, 84 mg (8%). 1H NMR (CDCl3) δ 7.97(bs, 1H), 7.70–7.57(m, 5H), 7.49(t, 1H), 7.45–7.35(m, 2H), 6.96(d, J=7.9 Hz, 1H). MS 287 m/z (M+H)+.

reactant | 2-amino-4-phenylphenol | 3.6 mmol, 674 mg | NC1=C(C=CC(=C1)C1=CC=CC=C1)O | C12H11NO
reactant | 3-aminobenzoic acid | 3.6 mmol, 500 mg | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
product | 2-(3-Aminophenyl)-5-phenylbenzoxazole | NC=1C=C(C=CC1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C19H14N2O
